US07220856B2
Preparation of 4-[4-(4-Acetylphenylaminocarbonyl)piperazin-1-yl]-7-chloroquinoline
As described for 7-chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline, 7-chloro-4-(piperazin-1-yl)quinoline (250 mg, 1.01 mmol), diisopropyl(ethyl)amine (261 mg, 2.02 mmol), and 4-acetylphenyl isocyanate (195 mg, 1.21 mmol) are reacted to give the title product after flash chromatography with CH2Cl2-MeOH.

reactant | 7-chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H18ClF3N4O
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 1.01 mmol, 250 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | diisopropyl(ethyl)amine | 2.02 mmol, 261 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-acetylphenyl isocyanate | 1.21 mmol, 195 mg | C(C)(=O)C1=CC=C(C=C1)N=C=O | C9H7NO2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-[4-(4-Acetylphenylaminocarbonyl)piperazin-1-yl]-7-chloroquinoline | C(C)(=O)C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=CC=NC2=CC(=CC=C12)Cl | C22H21ClN4O2
